US04122186
α-Naphthylcarbamoylacetohydroxamic acid Code No. CRL 40,518
19.3 g (0.075 mol) of ethyl α-naphthylcarbamoylacetate are treated with a solution of hydroxylamine, prepared from 5.6 g (0.08 mol) of hydroxylamine hydrochloride and 3.68 g of sodium in 250 ml of methanol. After leaving the reactants in contact for 5 hours, the mixture is evaporated to dryness in vacuo, the residue is taken up in 400 ml of cold water, the solution is filtered over charcoal, and the product is precipitated cold with 3N HCl, filtered off and washed with water. CRL 40,518 is obtained by recrystallisation from ethanol.

reactant | ethyl α-naphthylcarbamoylacetate | 0.075 mol, 19.3 g | C1(=CC=CC2=CC=CC=C12)NC(=O)CC(=O)OCC | C15H15NO3
reactant | hydroxylamine | NO | H3NO
reactant | hydroxylamine hydrochloride | 0.08 mol, 5.6 g | Cl.NO
reactant | sodium | 3.68 g | [Na] | Na
solvent | methanol | 250 ml | CO | CH4O
product | α-Naphthylcarbamoylacetohydroxamic acid | C1(=CC=CC2=CC=CC=C12)NC(=O)CC(=O)NO | C13H12N2O3
